US06348459B1
Step 1 Preparation of methyl .alpha.-[2-[[bis[(4-methoxyphenyl)methyl]amino] sulfonyl]ethyl]-2-fluoro-4-nitrobenzeneacetate
Methyl 2-(2-fluoro-4-nitrophenyl)acetate (25.0 g, 117.4 mmol), vinyl sulfonamide (35.0 g, 100.9 mmol), anhydrous potassium carbonate (10.0 g, 72.5 mmol) and 18-crown-6 (2.64 g, 10.0 mmol) are heated under reflux in toluene (250 ml) for 3 hr. After cooling, ethyl acetate (500 ml) and water (300 ml) are added. The organic layer is washed with brine (200 ml), dried over MgSO4, filtered and evaporated. The resultant oil is chromatographed over silica gel (1 kg) eluting with 25-50% ethyl acetate-hexane. The title compound is obtained as white crystals (45.8 g, 81%) mp 79°.

reactant | Methyl 2-(2-fluoro-4-nitrophenyl)acetate | 117.4 mmol, 25.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)OC | C9H8FNO4
reactant | vinyl sulfonamide | 100.9 mmol, 35.0 g | C(=C)S(=O)(=O)N | C2H5NO2S
reactant | potassium carbonate | 72.5 mmol, 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 10.0 mmol, 2.64 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | methyl .alpha.-[2-[[bis[(4-methoxyphenyl)methyl]amino] sulfonyl]ethyl]-2-fluoro-4-nitrobenzeneacetate | COC1=CC=C(C=C1)CN(S(=O)(=O)CCC(C(=O)OC)C1=C(C=C(C=C1)[N+](=O)[O-])F)CC1=CC=C(C=C1)OC | C27H29FN2O8S
